US20010053785A1
[4′-(2-Benzyl-benzo[b]thiophene-3-yl)-3-bromo-biphenyl-4-yloxy]-acetic acid
The title compound was prepared from 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol, and methyl bromoacetate, in substantially the same manner, as described in Example 2 step g , and was obtained as a white solid, mp 150-152° C.; MS m/e 528 (M+);

reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3-bromo-biphenyl-4-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)O)Br | C27H19BrOS
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [4′-(2-Benzyl-benzo[b]thiophene-3-yl)-3-bromo-biphenyl-4-yloxy]-acetic acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)OCC(=O)O)Br | C29H21BrO3S
